US07745484B2
Step 2: 4-(2,2,2-trifluoro-1-hydroxyethyl)phenol
To a solution of 2,2,2-trifluoro-1-(4-hydroxyphenyl)ethanone (5.0 g, 26 mmol) in dichloroethane was added zinc iodide (2.7 ml, 39 mmol) followed by sodium cyanoborohydride (10 ml, 197 mmol). The reaction was stirred at RT for 18 h. Both TLC and LCMS showed one product was formed. MS+=175 (desired mass 192—OH). The mixture was filtered through celite and rinsed with dichloromethane. The filtrate was concentrated and dried in vacuum to afford the title compound as colorless oil. MS m/z: 175(M−H2O).

reactant | 2,2,2-trifluoro-1-(4-hydroxyphenyl)ethanone | 26 mmol, 5.0 g | FC(C(=O)C1=CC=C(C=C1)O)(F)F | C8H5F3O2
reactant | sodium cyanoborohydride | 197 mmol, 10 ml | C(#N)[BH3-].[Na+]
solvent | dichloroethane | ClC(C)Cl | C2H4Cl2
catalyst | zinc iodide | 39 mmol, 2.7 ml | [I-].[Zn+2].[I-]
product | 4-(2,2,2-trifluoro-1-hydroxyethyl)phenol | FC(C(O)C1=CC=C(C=C1)O)(F)F | C8H7F3O2
